US05958942
i) Synthesis of 4,5-dihydro-4-[5-(trifluoromethanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione
To a solution of 1.44 g (14.1 mmol) of 1,5-diaminopentane and 3.64 g (28.2 mmol) of N,N-diisopropylethylamine in 50 ml of acetonitrile was added 4.73 g (14.1 mmol) of 5-ethoxycarbonyl-3-trichloroacetylimidazo[1,2-a]pyridine in 50 ml of acetonitrile. The mixture was heated for 45 minutes under reflux. After cooling, the resulting insolubles were filtered off. To the filtrate was added 6.04 g (16.9 mmol) of N-phenyltrifluoromethanesulfonimide. The mixture was stirred for one hour at room temperature. The solvent was distilled off. To the residue was added chloroform, and the mixture was washed with an aqueous solution of sodium hydrogencarbonate, dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by means of a column chromatography (eluent: ethyl acetate), followed by crystallization from ethyl acetate. The crystalline product was collected by filtration, washed with ether and dried to give 2.05 g of the desired compound (36.0%, colorless solid), m.p.166.0-167.0° C.

reactant | 1,5-diaminopentane | 14.1 mmol, 1.44 g | NCCCCCN | C5H14N2
reactant | N,N-diisopropylethylamine | 28.2 mmol, 3.64 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-ethoxycarbonyl-3-trichloroacetylimidazo[1,2-a]pyridine | 14.1 mmol, 4.73 g | C(C)OC(=O)C1=CC=CC=2N1C(=CN2)C(C(Cl)(Cl)Cl)=O | C12H9Cl3N2O3
reactant | N-phenyltrifluoromethanesulfonimide | 16.9 mmol, 6.04 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 4,5-dihydro-4-[5-(trifluoromethanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione | 2.05 g, 36.0% | FC(S(=O)(=O)NCCCCCN1C(C2=CN=C3C=CC=C(C1=O)N32)=O)(F)F | C15H15F3N4O4S
